US08236798B2
A mixture of (R)-ethyl 5-oxo-pyrrolidine-2-carboxylate (2760 mg, 17.56 mmol), bromobenzene (2.034 ml, 3030 mg, 19.32 mmol), Pd2(dba)3 (402 mg, 0.439 mmol), Cs2CO3 (8580 mg, 26.3 mmol), and 4,5-bis(diphenylphosphino)-9,9-dimethylxanthene (Xantphos, 254 mg, 0.439 mmol) in 70 ml of dioxane was stirred at 100° C. for 6 h under nitrogen atmosphere. Due to only partial reaction after this time additional Pd2(dba)3 (402 mg, 0.439 mmol), Cs2CO3 (2860 mg, 8.77 mmol) and Xantphos (254 mg, 0.439 mmol) were added and stiffing at 100° C. was continued for additional 6 h. The reaction mixture was then filtered via a short celite column, the solvent was removed under reduced pressure, and the remaining residue was taken up in ethyl acetate, washed successively with an aq. sat. NaHCO3 solution and an aq. citric acid solution (each 3×), then with water and brine. The organic layer was dried over Na2SO4, the solvent evaporated under reduced pressure, and the obtained residue purified by column chromatography on silica gel using dichloromethane to give (R)-ethyl 5-oxo-1-phenylpyrrolidine-2-carboxylate as a brown oil (715 mg, 3.07 mmol; yield: 17%; ESI-MS [M+H]+=234.1). Saponification to the corresponding carboxylate was achieved by stirring at room temperature overnight in a solution of 4 ml ethanol and 1.84 ml 2N NaOH (aq). Subsequent evaporation of the solvent followed by addition of water, extraction with MTBE (3×), acidification of the aqueous layer to pH 3 using concentrated HCl, extraction with dichloromethane (3×), washing the combined organic layers with brine, drying over MgSO4 and removing the solvent under reduced pressure yielded the title compound as a pale brown powder (0.5 g; yield: 79%).

reactant | (R)-ethyl 5-oxo-pyrrolidine-2-carboxylate | 17.56 mmol, 2760 mg | O=C1CC[C@@H](N1)C(=O)OCC | C7H11NO3
reactant | bromobenzene | 19.32 mmol, 2.034 ml, 3030 mg | BrC1=CC=CC=C1 | C6H5Br
reactant | Cs2CO3 | 26.3 mmol, 8580 mg | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | 4,5-bis(diphenylphosphino)-9,9-dimethylxanthene | 0.439 mmol, 254 mg | C1(=CC=CC=C1)P(C1=CC=CC=2C(C3=CC=CC(=C3OC12)P(C1=CC=CC=C1)C1=CC=CC=C1)(C)C)C1=CC=CC=C1 | C39H32OP2
reactant | Cs2CO3 | 8.77 mmol, 2860 mg | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | Xantphos | 0.439 mmol, 254 mg | CC1(C2=C(C(=CC=C2)P(C3=CC=CC=C3)C4=CC=CC=C4)OC5=C(C=CC=C51)P(C6=CC=CC=C6)C7=CC=CC=C7)C | C39H32OP2
solvent | dioxane | 70 ml | O1CCOCC1 | C4H8O2
catalyst | Pd2(dba)3 | 0.439 mmol, 402 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
catalyst | Pd2(dba)3 | 0.439 mmol, 402 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | (R)-ethyl 5-oxo-1-phenylpyrrolidine-2-carboxylate | yield: 17% | O=C1CC[C@@H](N1C1=CC=CC=C1)C(=O)OCC | C13H15NO3
